datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:9],7.19648
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]=[C:8][S:9][H:10]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8](=[S:7])[S:9][H:10],-1.6736
[N:4][H:5].[O:0]=[N:1][O:2][H:3]>>[H:3][N:4][H:5].[O:0]=[N:1][O:2],0.0
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:10])([H:8])[H:9],40.5011
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:27])[H:15])([H:13])[H:14],8.66088
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:34])([H:35])[H:36]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26]([C:25]([H:34])([H:35])[H:36])([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44],61.5048
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[c:8]1[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]1[H:24])([H:14])([H:15])[H:16]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[c:8]1[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]1[H:24],89.5376
[C:0]1([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21>>[C:0]1([H:10])([H:11])[C:1]([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21,141.444304
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]([C:6]([H:16])([H:17])[H:18])[H:19])([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:3],54.9778
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27],141.461
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][O:15][H:16],-8.029096
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][O:38][O:39],199.11656
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:16],73.751368
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3].[H:8]>>[C:0](#[C:1][C:2]([H:5])([H:6])[H:7])[H:3].[H:4][H:8],0.0
